US07550598B2
(Z)-3-benzyl-4-(4-chloroquinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one
The title compound was prepared from 3-benzyl-1H-pyrazol-5(4H)-one and 4-chloroquinoline N-oxide under conditions similar to those described in Example 60. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.76 (s, 2H) 3.98 (bs, 1H) 7.23-7.32 (m, 5H) 7.61 (t, J=7.58 Hz, 1H) 7.76-7.82 (m, 1H) 7.93 (d, J=8.34 Hz, 1H) 8.08-8.18 (m, 2H); ESI-MS: m/z calc'd for C19H14ClN3O 335.08. found 336.2 (M+H)+.

reactant | 3-benzyl-1H-pyrazol-5(4H)-one | C(C1=CC=CC=C1)C1=NNC(C1)=O | C10H10N2O
reactant | 4-chloroquinoline N-oxide | ClC1=CC=[N+](C2=CC=CC=C12)[O-] | C9H6ClNO
product | (Z)-3-benzyl-4-(4-chloroquinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one | C(C1=CC=CC=C1)C/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)Cl)=O | C19H14ClN3O
